US08372842B2
A solution of 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (10.00 g, 39.17 mmol, prepared as described in WO 2007/103308) in absolute ethanol (220 mL) was cooled to 0° C., treated dropwise with bromine (2.15 mL, 43.09 mmol) and stirred at 0° C. for 30 minutes. The ice bath was then removed, and the mixture was allowed to warm to room temperature. After 30 minutes, water (150 mL) and concentrated HCl (10 mL) were added to the slurry, and the mixture was stirred at room temperature for 10 minutes. The solid formed was filtered and washed with water (3×20 mL) followed by EtOH (2×20 mL). The solid collected was triturated with CH3CN, filtered, washed with additional CH3CN (2×10 mL), and air dried to provide 5-bromo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (10.90 g, 83% yield) as a solid. LCMS (APCI+) m/z 333.9 (M+H)+, Retention time=2.33 minutes.

reactant | 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 39.17 mmol, 10.00 g | COC1=CC=C(CN2N=CC3=C2N=CC=C3O)C=C1 | C14H13N3O2
reactant | bromine | 43.09 mmol, 2.15 mL | BrBr | Br2
solvent | ethanol | 220 mL | C(C)O | C2H6O
product | 5-bromo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 10.90 g, 83% yield | BrC1=C(C2=C(N=C1)N(N=C2)CC2=CC=C(C=C2)OC)O | C14H12BrN3O2
